### ISSUE TITLE
grind fails after multiple norm_cast calls

### ISSUE THREAD

**Issue by kim-em** [leanprover/lean4#11411]
## Description

After running `norm_cast at h` twice on the same hypothesis, `grind` fails with the diagnostic:

```
[issue] unexpected metadata found during internalization
      2
    `grind` uses a pre-processing step that eliminates metadata
```

The issue appears to be that `norm_cast` adds metadata (mdata nodes) to expressions, and `grind`'s pre-processing only strips one layer of metadata instead of recursively removing all layers.

## Minimal Reproduction

This example requires no Mathlib imports:

```lean
-- Minimal WithTop definition
def WithTop (α : Type u) := Option α

namespace WithTop

variable {α : Type u}

@[coe] def some : α → WithTop α := Option.some

instance : Coe α (WithTop α) := ⟨some⟩

instance : NatCast (WithTop Nat) where
  natCast n := some n

end WithTop

-- AtLeastTwo infrastructure (from Mathlib.Data.Nat.Init)
class Nat.AtLeastTwo (n : Nat) : Prop where
  prop : n ≥ 2

instance Nat.instAtLeastTwo : Nat.AtLeastTwo (n + 2) where
  prop := Nat.le_add_left 2 n

-- OfNat instance for numeric literals ≥ 2 (from Mathlib.Data.Nat.Cast.Defs)
instance instOfNatAtLeastTwo {R : Type u} [NatCast R] (n : Nat) [Nat.AtLeastTwo n] : OfNat R n where
  ofNat := n

-- The key norm_cast lemma (from Mathlib.Data.Nat.Cast.Defs)
@[simp, norm_cast]
theorem Nat.cast_ofNat {R : Type u} {n : Nat} [NatCast R] [Nat.AtLeastTwo n] :
    (Nat.cast (no_index (OfNat.ofNat n)) : R) = no_index (OfNat.ofNat n) := rfl

variable {Foo : WithTop Nat → Prop} {Bar : Prop}

-- Works: grind without norm_cast
example (foo_imp_bar : ∀ x, Foo x → Bar) (h : Foo 2) : Bar := by
  grind

-- Works: grind after one norm_cast
example (foo_imp_bar : ∀ x, Foo x → Bar) (h : Foo 2) : Bar := by
  norm_cast at h
  grind

-- BUG: grind fails after two norm_casts
example (foo_imp_bar : ∀ x, Foo x → Bar) (h : Foo 2) : Bar := by
  norm_cast at h
  norm_cast at h
  grind -- fails with "unexpected metadata found during internalization"
```

## Expected Behavior

`grind` should succeed regardless of how many times `norm_cast` has been applied, since `norm_cast` doesn't change the type of `h` in any meaningful way (it's already in normal form after the first call).

## References

Zulip discussion: https://leanprover.zulipchat.com/#narrow/channel/113488-general/topic/Bizarre.20bug.20with.20grind.20.2B.20norm_cast

## Versions

Tested on `leanprover/lean4:nightly-2025-11-27`
